US06017929
3-(2-Indanacetyl)-4(R)-(1-pyrrolidinecarbonyl)thiazolidine 1-oxide (Compound 131)
Dissolved in 100 ml of chloroform were 5 g of 3-(2-indanacetyl)-4(R)-(1-pyrrolidinecarbonyl)thiazolidine (a compound according to Preparation Example 2 set forth in Japanese Patent Application Laid-Open No. 262557/1990). While chilling with ice water, 3.3 g of meta-chloro-perbenzoic acid were gradually added to the solution. After stirring the mixture for 3 hours, the resultant liquid reaction mixture was washed successively with a 5% solution of sodium thiosulfate and a saturated aqueous solution of sodium bicarbonate and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (methanol:chloroform=5:95), thereby obtaining 3.8 g of the title compound as a diastereomeric mixture. Yield: 73%.

reactant | 3-(2-indanacetyl)-4(R)-(1-pyrrolidinecarbonyl)thiazolidine | 5 g | C1C(CC2=CC=CC=C12)CC(=O)N1CSC[C@H]1C(=O)N1CCCC1 | C19H24N2O2S
reactant | meta-chloro-perbenzoic acid | 3.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Indanacetyl)-4(R)-(1-pyrrolidinecarbonyl)thiazolidine 1-oxide | 3.8 g, Yield: 73% | C1C(CC2=CC=CC=C12)CC(=O)N1CS(C[C@H]1C(=O)N1CCCC1)=O | C19H24N2O3S
